US07273867B2
11.5 g (33.5 mmol) of caesium carbonate and 7.67 g (35.2 mmol) of methyl 2-bromo-2-phenylacetate are added to a solution of 5.90 g (33.5 mmol) of 3-(5-methyl-1,2,4-oxadiazol-3-yl)phenol in 50 ml of acetonitrile. The reaction mixture is stirred at room temperature for 24 hours, then filtered, and the filtrate is evaporated, giving methyl [3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-2-phenylacetate as a yellowish oil; ESI 325.

reactant | caesium carbonate | 33.5 mmol, 11.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-bromo-2-phenylacetate | 35.2 mmol, 7.67 g | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
reactant | 3-(5-methyl-1,2,4-oxadiazol-3-yl)phenol | 33.5 mmol, 5.90 g | CC1=NC(=NO1)C=1C=C(C=CC1)O | C9H8N2O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl [3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-2-phenylacetate | CC1=NC(=NO1)C=1C=C(OC(C(=O)OC)C2=CC=CC=C2)C=CC1 | C18H16N2O4
